US08202885B2
3,4-Dimethoxy-6-methyl-benzene-1,2-diamine was synthesized by dissolving 11.5 g of 1,2-dimethoxy-5-methyl-3,4-dinitro-benzene in 300 mL EtOH, evacuating 3 times with N2 and adding 1.0 g of 10 wt % Pd/C. The reaction was stirred under a H2 atmosphere (balloon) for 2 days. Filtration over a pad of celite and washing with EtOH yielded after concentration in vacuo 8.8 g of 3,4-dimethoxy-6-methyl-benzene-1,2-diamine as brown oil.

reactant | 1,2-dimethoxy-5-methyl-3,4-dinitro-benzene | 11.5 g | COC1=C(C(=C(C(=C1)C)[N+](=O)[O-])[N+](=O)[O-])OC | C9H10N2O6
solvent | EtOH | 300 mL | CCO | C2H6O
product | 3,4-Dimethoxy-6-methyl-benzene-1,2-diamine | COC1=C(C(=C(C=C1OC)C)N)N | C9H14N2O2
